US07786108B2
Step 2. Preparation of (S)-2-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-ethanol
Purge a solution of (S)-[5-(2-Benzyloxy-ethyl)-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl]-(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.14 mmol) in methanol (20 mL) with nitrogen and add a catalytic amount of Pd/C. Purge the resulting mixture with hydrogen and stir at room temperature for 5 h. Purge the reaction with nitrogen, filter through Celite®, and wash with methanol (50 mL). Remove solvent under vacuum. Chromatograph the crude product over silica gel, eluting with ethyl acetate/hexane (5-100%) to provide the title compound as a colorless foam. MS (ES+): 557 (M+H).

reactant | (S)-[5-(2-Benzyloxy-ethyl)-3,5,6,7,8,9-hexahydro-1H-2-oxa-5-aza-cyclohepta[f]inden-9-yl]-(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.14 mmol | C(C1=CC=CC=C1)OCCN1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C32H32F6N6O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (S)-2-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-ethanol | FC(C=1C=C(CN([C@H]2CCCN(C=3C2=CC=2COCC2C3)CCO)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C25H26F6N6O2
